US06436923B1
D. 6-Methoxy-2-phenyl-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline
A solution of 1-(4-hydroxybenzyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline (0.30 g, 0.87 mmol), 2-chloroethylpiperidine hydrochloride (0.32 g, 1.74 mmol) and potassium carbonate (0.24 g, 1.74 mmol) in dimethyl formamide (15 mL) was heated to 80° C. After 6 hours, the mixture was cooled to RT, poured into water (30 mL), and neutralized using a saturated solution of ammonium chloride. The product was extracted with ethyl acetate (2×75 mL), dried over MgSO4, filtered and concentrated. The residue was then chromatographed (SiO2, 10:1 ethyl acetate/ethanol) to provide the title compound (0.20 g, 47% yield): ES-MS (m/z) 457 [M+H]+.

reactant | 1-(4-hydroxybenzyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.87 mmol, 0.30 g | OC1=CC=C(CC2N(CCC3=CC(=CC=C23)OC)C2=CC=CC=C2)C=C1 | C23H23NO2
reactant | 2-chloroethylpiperidine hydrochloride | 1.74 mmol, 0.32 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 1.74 mmol, 0.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 6-Methoxy-2-phenyl-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline | 0.20 g, 47% yield | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCCC1NCCCC1)C1=CC=CC=C1 | C30H36N2O2
